US06043366
8-Cyclodecyl-3-(2-oxo-oxazolidin-5-ylmethyl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1)
The title compound, white solid, m. p. 174° C. and MS: m/e=469.3 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and 5-chloromethyl-2-oxazolidinone.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | 5-chloromethyl-2-oxazolidinone | ClCC1CNC(O1)=O | C4H6ClNO2
product | 8-Cyclodecyl-3-(2-oxo-oxazolidin-5-ylmethyl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CC2CNC(O2)=O)=O)CC1 | InChI=1S/C27H40N4O3.ClH/c32-25-27(15-17-29(18-16-27)22-11-7-4-2-1-3-5-8-12-22)31(23-13-9-6-10-14-23)21-30(25)20-24-19-28-26(33)34-24;/h6,9-10,13-14,22,24H,1-5,7-8,11-12,15-21H2,(H,28,33);1H
